US06391880B1
4-(4-Pyridyl)piperidine (2.44 g) was added to a stirred suspension of 1-t-butoxycarbonyl-4-(4-nitrophenoxycarbonyl)piperazine (5.26 g) in dimethylformamide (90 mL) at 25° C. The reaction mixture was heated at 105° C. for 18 hours. The dimethylformamide was evaporated and water (500 mL) added, The aqueous phase was extracted with ethyl acetate. The organic phase was washed with 1M sodium hydroxide solution (5×100 mL) and saturated brine (2×100 mL), dried and evaporated, The residue was purified by chromatography on silica gel using a mixture of dichloromethane: methanol: 0.88 ammonia (94:5:1) as eluent to give a yellow oil. Trituration with ether gave, as a pale yellow solid, 1-t-butoxycarbonyl-4-[4-(4-pyridyl)-1-piperidylcarbonyl]piperazine (2.62 g); mp 143-4° C.; NMR (CDCl3) 1.44(s, 9H), 1.58-1.78(m, 2H), 1.78-1.92(d, 2H), 2.60-2.75(m, 1H), 2.80-2.96 (m, 2H), 3.92-3.25(t, 4H), 3.38-3.50(m, 4H), 3.82(d, 2H), 7.10(d, 2H), 8.51(d, 2H); EI-MS m/z 375(M+H).

reactant | 4-(4-Pyridyl)piperidine | 2.44 g | N1=CC=C(C=C1)C1CCNCC1 | C10H14N2
reactant | 1-t-butoxycarbonyl-4-(4-nitrophenoxycarbonyl)piperazine | 5.26 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O6
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | 1-t-butoxycarbonyl-4-[4-(4-pyridyl)-1-piperidylcarbonyl]piperazine | 2.62 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C20H30N4O3
